US04954507
1-(4-TOLUENESULFONYL)-4-(4-TOLUENESULFONYLOXY)-D-PROLINE ETHYL ESTER
To a cold solution of 11.85 g (38 mmoles) 1-(4-toluenesulfonyl)-4-hydroxy-D-proline ethyl ester in 37 mL pyridine at 0° C. was added 8.0 g (41 mmoles) of 4-toluenesulfonyl chloride portionwise in 15 minutes. The cold solution was stirred one hour at 0° C. and then 48 h at room temperature. Water (100 mL) was added dropwise in the solution cooled at 0° C. which was stirred 30 minutes at 0° C. The precipitate was filtered and washed with cold water and ether to give 15.55 g of titled compound. MP 122° C. [α]20 =+26.36° (c=2, chloroform)

reactant | 1-(4-toluenesulfonyl)-4-hydroxy-D-proline ethyl ester | 38 mmoles, 11.85 g | C(C)OC([C@@H]1N(CC(C1)O)S(=O)(=O)C1=CC=C(C=C1)C)=O | C14H19NO5S
reactant | 4-toluenesulfonyl chloride | 41 mmoles, 8.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Water | 100 mL | O | H2O
solvent | pyridine | 37 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-TOLUENESULFONYL)-4-(4-TOLUENESULFONYLOXY)-D-PROLINE ETHYL ESTER | 15.55 g | C(C)OC([C@@H]1N(CC(C1)OS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)=O | C21H25NO7S2
